US08957062B2
Step C: 4-[(1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)-3-fluorophenoxy]ethyl}cyclopropyl]-1-[3-(methoxymethyl)-1,2,4-oxadiazol-5-yl]piperidine
To a solution of (2-fluoro-4-{2-[(1S,2R)-2-{1-[3-(methoxymethyl)-1,2,4-oxadiazol-5-yl]piperidin-4-yl}cyclopropyl]ethoxy}phenyl)acetic acid (80.0 mg, 0.185 mmol) in 1 ml anhydrous DMF at RT was added azetidine (12.6.2 mg, 0.221 mmol) and N,N-diisopropylethylamine (0.097 ml, 0.554 mmol). o-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (140 mg, 0.369 mmol) was added into the solution and stirred at RT for 4 hrs. The reaction mixture was filtered and purified by reverse-phase HPLC (SunFire Prep C18 OBD 5 um 19×100 mm column; 35-95% acetonitrile in 0.1% formic acid in water gradient) to give the title compound. LC/MS (m/z): 473.2 (M+H)+. GPR119 Human EC50: 5.8 nM

reactant | (2-fluoro-4-{2-[(1S,2R)-2-{1-[3-(methoxymethyl)-1,2,4-oxadiazol-5-yl]piperidin-4-yl}cyclopropyl]ethoxy}phenyl)acetic acid | 0.185 mmol, 80.0 mg | FC1=C(C=CC(=C1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C1=NC(=NO1)COC)CC(=O)O | C22H28FN3O5
reactant | azetidine | 0.221 mmol | N1CCC1 | C3H7N
reactant | N,N-diisopropylethylamine | 0.554 mmol, 0.097 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | o-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.369 mmol, 140 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-[(1R,2S)-2-{2-[4-(2-azetidin-1-yl-2-oxoethyl)-3-fluorophenoxy]ethyl}cyclopropyl]-1-[3-(methoxymethyl)-1,2,4-oxadiazol-5-yl]piperidine | N1(CCC1)C(CC1=C(C=C(OCC[C@H]2[C@H](C2)C2CCN(CC2)C2=NC(=NO2)COC)C=C1)F)=O | C25H33FN4O4
